US08183260B2
5-(2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione (Method 2)
1.54 g thieno(3,4-c)furan-1,3-dione was dissolved in 20 mL of anhydrous THF, and 12.8 g of 3-aminopiperidine-2,6-dione was added. The reaction mixture was allowed to react at room temperature for 4 h. Then, 2 g of CDI and a catalytic quantity of DMAP were added, and the reaction mixture was allowed to reflux for 6 h until a large amount of white solid precipitated. The solid was cooled and filtered to yield 2.1 g of the title product.

reactant | thieno(3,4-c)furan-1,3-dione | 1.54 g | C1(OC(C=2C1=CSC2)=O)=O | C6H2O3S
reactant | 3-aminopiperidine-2,6-dione | 12.8 g | NC1C(NC(CC1)=O)=O | C5H8N2O2
reactant | CDI | 2 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-(2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione | 2.1 g | O=C1NC(CCC1N1C(C=2C(C1=O)=CSC2)=O)=O | C11H8N2O4S
